Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
tetracycline
 
Attending: ___.
 
Chief Complaint:
Right sided clumsiness and weakness
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ old right-handed attorney with HTN who
presents with right sided clumsiness found to have a left 
pontine
IPH. 

Mr. ___ reports that at 3:30am, he woke up to use the
restroom. He noticed a pounding, holocephalic headache, which is
atypical for him. He thought he might be dehydrated, so he got 
up
to get a drink of water. He thought his right side was clumsy,
possibly weak, like he was using his left hand rather than his
right to grab the water. He felt off balance when he walked, but
did not fall. He went back to bed. 

He woke up again around 7:30am, but the symptoms persisted. The
headache was also still there. He grabbed a cup of coffee and
needed to use his left hand because his right hand wasn't 
working
properly. He presented to the ED at 11:30am. There, he had a CT
head which revealed a left pontine IPH. He was transferred to
___ for further management. 

Currently, he is headache free, though he reports persistent
right sided clumsiness and unsteadiness when walking. 

Of note, he usually take aspirin 81mg daily, but has forgotten 
to take it for the past 2 days. 

 
Past Medical History:
HTN
GERD

 
Social History:
___
Family History:
Extensive hx of HTN
 
Physical Exam:
****************
Admission Exam:
****************

Physical Exam:
Vitals: T: 97.9 P: 55  R: 20  BP: 160/98  SaO2: 96% RA
General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Lungs CTA bilaterally 
Cardiac: bradycardic, reg rhythm
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Increased bulk, normal tone throughout. No pronator 
drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___  ___ 
L  5    ___   ___   5    5  5     5     5   
R  4+   ___   ___   5    5  5     5     5   

-Sensory: No deficits to light touch. Proprioception intact. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor on the left, extensor on the right.

-Coordination: Slowed movements of right finger tap. Mild FNF
dysmetria on the right, normal on left. HTS normal.  

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing
but hesitant, unable to walk a long distance for full assessment
due to Nicardipine drip. Romberg absent.

****************
Discharge Exam:
****************
General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Lungs CTA bilaterally 
Cardiac: bradycardic, reg rhythm
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
Neurology:
-Mental status: alert, oriented, attention and speech intact  
-Cranial nerves: pupils 3->2 bilaterally, EOMI, no nystagmus, 
face symmetric
-Motor: strength full throughout
-Reflexes: 3+ in biceps b/l, ___ 2+, crossed adductors b/l at 
patella, toes up on right, down on left 
-Gait narrow, can tandem, Romberg negative
-Coordination: FTN/HTS intact

 
Pertinent Results:
___  Non-Contrast CT of Head (OSH): 
IMPRESSION:
Small area of hyperdensity in the left pons without significant 
edema or shift.

___, MR HEAD W & W/O CONTRAS 
IMPRESSION:  
1. Focal hemorrhagic change is identified on the left side of 
the pons, 
grossly unchanged since the prior head CT dated ___, probably related with a possible hypertensive hemorrhagic 
focus, there is no evidence of enhancement in this region, and 
other conditions such as small cavernoma is a consideration, 
long-term follow-up is recommended to demonstrate stability. 
2.  Minimal vasogenic edema is noted in this pontine area, with 
no significant mass effect or narrowing or obliteration of the 
adjacent pre pontine and perimesencephalic cisterns.  No other 
lesions are identified throughout the brain. 
3.  Small mucous retention cyst is noted on the left maxillary 
sinus. 

  

___ 05:05AM BLOOD WBC-5.8 RBC-4.66 Hgb-13.8 Hct-42.3 MCV-91 
MCH-29.6 MCHC-32.6 RDW-13.1 RDWSD-43.5 Plt ___

___ 09:45AM BLOOD WBC-5.8 RBC-4.98 Hgb-14.8 Hct-45.3 MCV-91 
MCH-29.7 MCHC-32.7 RDW-13.2 RDWSD-44.5 Plt ___
___ 07:05AM BLOOD WBC-5.0 RBC-4.81 Hgb-14.3 Hct-43.1 MCV-90 
MCH-29.7 MCHC-33.2 RDW-13.2 RDWSD-43.4 Plt ___
___ 05:05AM BLOOD Glucose-87 UreaN-26* Creat-1.0 Na-140 
K-4.3 Cl-104 HCO3-25 AnGap-15
___ 09:45AM BLOOD Glucose-89 UreaN-23* Creat-1.0 Na-141 
K-4.5 Cl-103 HCO3-25 AnGap-18
___ 06:43AM BLOOD Glucose-72 UreaN-22* Creat-1.1 Na-140 
K-4.2 Cl-104 HCO3-24 AnGap-16
___ 07:05AM BLOOD Glucose-88 UreaN-19 Creat-1.0 Na-137 
K-4.1 Cl-104 HCO3-24 AnGap-13
___ 07:05AM BLOOD ALT-68* AST-41* LD(LDH)-188 CK(CPK)-361* 
AlkPhos-71 TotBili-0.8
___ 07:05AM BLOOD %HbA1c-4.8 eAG-91
___ 07:05AM BLOOD Triglyc-53 HDL-20 CHOL/HD-8.3 
LDLcalc-134*
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of hypertension, 
squamous cell carcinoma of the face, who was found to have a 
left pontine intracerebral hemorrhage. Neurological exam on 
admission was notable for motor weakness in R deltoid, R bicep, 
R wrist and finger extension; as well as cross reflex in the 
legs, and upgoing R toe fingers. 

#Left pontine intracerebral hemorrhage
Etiology was felt to be most likely due to hypertension given 
location in the pons and history consistent with subacute onset 
of symptoms. His BP was elevated on presentation and was started 
on nicardipine gtt for goal systolic blood pressure less than 
150. He was able to be weaned off nicardipine within 24 hours of 
presentation. MRI showed focal hemorrhagic change on the left 
pons, grossly unchanged since prior head CT dated ___, 
probably due to hypertensive hemorrhage. A repeat CT in 24 hours 
showed stable infarct. Other potential etiologies considered 
were cavernoma and much less likely a neoplasm. MRI brain did 
not support that this was a hemorrhagic transformation of an 
ischemic infarct. There does not appear to be an AVM in that 
area. Per radiology report and given possibility of cavernoma, 
long-term followup with MRI head is recommended to demonstrate 
stability or changes in the focal hemorrhagic lesion identified 
in the left pons.

AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? () Yes - () No  
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  

Transitional Issues
#Neurology
[ ] Discharged off aspirin as could not find indications to 
continue
[ ] Follow up with Dr. ___
[ ] Blood pressure management
[ ] Follow up MRI head

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Carvedilol 25 mg PO BID  
4.  Lisinopril 40 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.Other
MRI brain with and without contrast. Attention to brainstem to 
evaluate for underlying etiology of pontine hemorrhage. Please 
obtain GRE and diffusions sequences as well as pre- and post- to 
evaluate for underlying vascular malformation or mass.
7.Outpatient Physical Therapy
Please evaluate and treat.
Right-sided weakness and incoordination.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhagic stroke of the left side of the pons

TIA or Stroke (Ischemic or Hemorrhagic)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of right sided clumsiness 
resulting from an INTRACEREBRAL HEMORRHAGE.
 
This is a condition where bleeding occurs in the brain, causing 
injury to the surrounding tissues. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from bleeding can result in a variety of 
symptoms. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High blood pressure
 
We are changing your medications as follows:  
- please stop your aspirin
- started hydrochlorothiazide and amlodipine for blood pressure
 
Your blood pressure was very high while you were here. We are 
discharging you on four blood pressure medications. You should 
follow up with your primary care doctor about the management of 
your blood pressure. You will also need to follow up some blood 
work because of the medications we are starting. Finally, you 
may need some blood work prior to your MRI in two months in 
order to make sure that it is safe to give you the contrast; 
your primary care doctor should order these if necessary in 
order to coordinate with the facility which is doing your MRI.

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Activity
· You make take leisurely walks or walk on the treadmill. ___ 
try to do too much all at once. Please see your PCP before 
starting anything more strenuous.
· We recommend that you do not lift weights for 30 days after 
your hemorrhage.
· Please do not drink to excess.

Medications
· Resume your normal medications and begin new medications as 
directed.
· You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___